US07868036B2
a) 2-(cis-4-Methoxy-cyclohexyl)-2-methyl-propionic acid methyl ester
0.500 g of 2-(cis-4-hydroxy-cyclohexyl)-2-methyl-propionic acid methyl ester (residue GGa) are dissolved in 5 ml of dry tetrahydrofuran. 0.120 g of sodium hydride (60% dispersion) is added in portions and the mixture stirred at 40° C. for 1 hour. Methyl iodide (0.233 ml) is added and the mixture heated to 40° C. for 5 hours. The reaction mixture is then cooled to room temperature, quenched with 5 ml of water and extracted with tert-butyl methyl ether (2×50 ml). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The title compound is identified from the residue by means of flash chromatography (SiO2 60F) based on its Rf value.

reactant | 2-(cis-4-hydroxy-cyclohexyl)-2-methyl-propionic acid methyl ester | 0.500 g | COC(C(C)(C)[C@@H]1CC[C@@H](CC1)O)=O | C11H20O3
reactant | sodium hydride | 0.120 g | [H-].[Na+]
reactant | Methyl iodide | 0.233 ml | CI | CH3I
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(cis-4-Methoxy-cyclohexyl)-2-methyl-propionic acid methyl ester | COC(C(C)(C)[C@@H]1CC[C@@H](CC1)OC)=O | C12H22O3
